US04636516
In 10 ml of chloroform was dissolved 0.8 g of 2-benzylthio-4-(3,5-di-tert-butyl-4-hydroxyphenyl)imidazole and then 0.35 g of m-chloroperbenzoic acid was added to the solution at room temperature. After the reaction was over, the reaction mixture was washed with a diluted aqueous alkali solution, dried, and concentrated under reduced pressure. The residue formed was subjected to silica gel chromatography and eluted with chloroform. The fraction thus obtained was concentrated udner reduced pressure and the residue was recrystallized from cyclohexane to provide 0.3 g of 2-benzylsulfinyl)-4-(3,5-di-tert-butyl-4-hydroxyphenyl)imidazole.

reactant | 2-benzylthio-4-(3,5-di-tert-butyl-4-hydroxyphenyl)imidazole | 0.8 g | C(C1=CC=CC=C1)SC=1NC=C(N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C24H30N2OS
reactant | m-chloroperbenzoic acid | 0.35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)imidazole | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=CNC1 | C17H24N2O
